US07439232B2
Preparation of 4-(4-ethylbenzoyl)-3-hydroxypyridine
Next, a mixture of 4-(4-ethylbenzoyl)-[3-[2-(trimethylsilyl)ethoxymethoxy]pyridine (3.4 g), p-toluenesulfonic acid monohydrate (3.46 g, 18.2 mmol) and tetrahydrofuran (60 mL) was stirred at 80° C. for 2 hours. After cooling to room temperature, the reaction mixture was poured into saturated aqueous sodium bicarbonate and extracted twice with ethyl acetate. The organic layers were dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=50:50) to give the titled compound (1.57 g, 83%).

reactant | 3-[2-(trimethylsilyl)ethoxymethoxy]pyridine | 3.4 g | C[Si](CCOCOC=1C=NC=CC1)(C)C | C11H19NO2Si
reactant | p-toluenesulfonic acid monohydrate | 18.2 mmol, 3.46 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 4-(4-ethylbenzoyl)-3-hydroxypyridine | 1.57 g, 83% | C(C)C1=CC=C(C(=O)C2=C(C=NC=C2)O)C=C1 | C14H13NO2
